US08071824B2
1-[3,3-Dimethylbut-1-en-1-yl]-2-nitrobenzene
To 40 g (179 mmol) of 3,3-dimethyl-1-(2-nitrophenyl)butan-2-ol in 400 ml of toluene at room temperature are added 23.44 g (197 mmol) of thionyl chloride, and the mixture is boiled under reflux for 2 h. After washing with 100 ml of saturated sodium bicarbonate solution and distilling the organic phase at 116° C./12 mbar, 20 g (48% of theory) of 1-[(1E)-3,3-dimethylbut-1-en-1-yl]-2-nitrobenzene are obtained.

reactant | 3,3-dimethyl-1-(2-nitrophenyl)butan-2-ol | 179 mmol, 40 g | CC(C(CC1=C(C=CC=C1)[N+](=O)[O-])O)(C)C | C12H17NO3
reactant | thionyl chloride | 197 mmol, 23.44 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[3,3-Dimethylbut-1-en-1-yl]-2-nitrobenzene | CC(C=CC1=C(C=CC=C1)[N+](=O)[O-])(C)C | C12H15NO2
